US07371747B2
To a solution of N-cyanomethyl 2-bromomethylcyclohexanecarboxamide (3.0 g, 11.58 mmol) in acetone (100 mL) at room temperature were added, in two portions, cesium carbonate (5.77 g, 17.5 mmol) and the crude 3,4-difluorothiophenol (2.69 g, 18.4 mmol). After 16 h, ethyl acetate (100 mL) was added. The solution was washed with 1M HCl (40 mL), brine (20 mL), evaporated, and purified on a short plug of silica gel (30% ethyl acetate/hexane to elute non-polar impurities, then 20-30% ethyl acetate/dichloromethane to give N-cyanomethyl 2-(3,4-difluorophenylsulfanylmethyl)-cyclohexanecarboxamide.

reactant | N-cyanomethyl 2-bromomethylcyclohexanecarboxamide | 11.58 mmol, 3.0 g | C(#N)CNC(=O)C1C(CCCC1)CBr | C10H15BrN2O
reactant | cesium carbonate | 17.5 mmol, 5.77 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,4-difluorothiophenol | 18.4 mmol, 2.69 g | FC=1C=C(C=CC1F)S | C6H4F2S
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | N-cyanomethyl 2-(3,4-difluorophenylsulfanylmethyl)-cyclohexanecarboxamide | C(#N)CNC(=O)C1C(CCCC1)CSC1=CC(=C(C=C1)F)F | C16H18F2N2OS
